Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"Spacing out"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old F w/ PMH of occasional migraine who
presents with episodes of "spacing out" and persistent headache.
Hx obtained from pt at bedside.

Pt reports that she initially had an episode at work last 
___
where she felt her vision "graying out" and subsequently slid
down an accompanying wall. Her coworkers immediately threw cold
water on her and she woke up. Denies preceding diaphoresis, 
chest
pain/palpitations/pressure, or sense of doom. After waking up 
she
felt back to her previous self. However, around this time pt 
also
began to feel more fatigued than usual, endorsing difficulty
concentrating. Out of concern, pt presented to PCP's office on
___. While there, she felt like she "spaced out" for a few
seconds while her PCP was talking. He shook her to refocus her
and pt felt back to her normal fatigued self. She was arranged
for NCHCT which was normal and planned for outpt Neurology f/u.
Since the ___ pt has had multiple similar episodes at home,
generally ___ per day. No clear trigger and no
worsening/evolution of sx. No association with positional
changes. Pt denies any postictal confusion or profound lethargy
(apart from her persistent fatigue). Endorses preceding "wave"
moving up her body from her feet, although is not sure if occurs
before every event. No other clear aural sx. Unsure if events
have occurred while she is mid-sentence. Husband has witnessed
one and only noted some eye fluttering but no other interictal
sx. She has attempted to treat with increased hydration/PO 
intake
and increased sleep to no avail. 

This morning, she woke up with headache located over posterior
occiput and bifrontal region described as throbbing in nature 
and
moderate to severe in severity. Has been persistent since onset.
No associated photophobia/phonophobia, n/v, visual changes, or
focal deficits. No worsening with supine, coughing, sneezing,
Valsalva maneuvers, or bending over. She does endorse prior hx 
of
migraines but reports different from this current episode. Due 
to
her various sx she was recommended to present to OSH for
evaluation. While there, lab w/u and NCHCT were unremarkable
(except for questionable UA). She was given Tylenol and Toradol
without significant pain relief. She was subsequently 
transferred
to ___ for further evaluation and consideration of EEG.  

Pt denies recent f/c, n/v, or infectious sx. No prior head
trauma, childhood febrile seizures, or CNS infection. No 
personal
hx of seizure. However, pt's first cousin was recently diagnosed
with seizure d/o (not sure of semiology or etiology) in her late
___. Endorses significant stress over last few months and poor
sleep (attempts to sleep for prolonged period of time but often
broken up). No significant EtOH or substance use.  

Of note, pt's husband has mentioned to her that she often snores
at night and pt can occasionally wake up with mild headache.
However, in the past pt has not often woken up with fatigue in
the morning, and does not usually have broken sleep. Pt has 
never
been evaluated for sleep apnea in past. 

Neuro and General ROS negative except as noted above

 
Past Medical History:
Asthma
Occ migraine-1 to 2 per year, bifrontal region w/ associated
photophobia, resolves w/ nap
Seasonal allergies
 
Social History:
___
Family History:
___ cousin-hx of seizures dx in late ___ 
 
Physical Exam:
ADMISSION EXAM:

Vitals: T: 98.5 P: 74 BP: 159/93 RR: 18 O2sat: 94% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity,
discomfort to palpation over lower cervical spine
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name serial 7s backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI with few beats
of end gaze nystagmus to L. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally or rebound.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or TTF bilaterally.

-Gait: Brisk initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

=
================================================================
DISCHARGE EXAM:
24 HR Data (last updated ___ @ 1608)
    Temp: 98.1 (Tm 98.4), BP: 160/98 (130-172/70-106), HR: 80 
(63-80), RR: 18 (___), O2 sat: 94% (94-97), O2 delivery: RA 

GEN: Obese woman, appears stated age, reclining in bed in no
apparent distress.
NECK: Neck movements are full range, non-tender.
MENTAL STATUS: Patient is alert and oriented to person, ___ 
and
date (___). Can recite ___ backwards without difficulty.
Speech and language are normal with appropriate fund of
knowledge. No paraphasias, no evidence of apraxia.

CRANIAL NERVES: Pupils are 3 mm, equal and reactive to light and
accomodation. Visual fields are full to confrontation.
Extraocular movements are intact. Facial sensation is intact to
light touch. Face symmetric at rest and with activation. Hearing
is present to finger rub bilaterally. Soft palate elevates
symmetrically. SCM and trapezius both exhibit ___ strength
bilaterally. Tongue protrudes in the midline, uvula midline.

MOTOR: Normal muscle bulk and tone. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

SENSATION: Intact to soft touch, temperature, and vibration
throughout.

DTRs:
  ___ Tri ___ Pat Ach
L  2  1    2    3   2
R  2  1    2    3   2
Babinski down-going bilaterally.

COORDINATION: Normal finger-to-nose bilaterally
GAIT: Not evaluated.

 
Pertinent Results:
ADMISSION LABS: 
Laboratory Data (from ___:
       15.3
  7.9>-----<324
       45.2
  143 | 105 |11
 ---------------<115                
  3.9 | 26  |0.8
Stox/Utox neg
UA + for 10 Urine bilinogen, 3+ bacteria, 25 ___
TSH wnl
Trop wnl
Coags wnl

Radiologic Data:

OSH CT/CTA ___:
 1. Anatomical vascular variation identified at the proximal
segment
     of the basilar artery consistent with fenestration, no flow
stenotic lesions or aneurysms are seen.
 2. Mild degenerative changes throughout the cervical spine, 
more
     significant at C4-C5 and C6-7 levels.

FURTHER STUDIES:
TSH: 4.6* 
T4: 6.9
___: negative 
CRP: 2.1 
ESR: 6
PEP: "no specific abnormalities seen"
U-PEP: no protein

Urine culture ___: mixed flora, c/w contamination

DIAGNOSTIC STUDIES:
Head MRI ___
1. No evidence of a significant intracranial abnormality.

Chest radiograph ___
1. No acute cardiopulmonary abnormality.

Echocardiogram ___:
IMPRESSION: 
 1) No echocardiographic evidence for cardiac cause of syncope
visualized. 

EEG ___: Normal, report pending at time of discharge.
 
Brief Hospital Course:
Ms. ___ is a ___ left-handed woman with a past 
medical history of migraine presenting from ___ for 
continuous EEG monitoring and further workup after 2 weeks of 
fatigue/hypersomnia and ongoing episodes of nonresponsiveness 
without LOC or post-ictal symptoms. Her primary episode on 
___ appears to have been a syncopal episode, with 
preceding tunnel vision, feeling weak, and subsequent loss of 
consciousness and tone for approximately 30 seconds. Since then, 
she had been experiencing approximately ___ episodes a day where 
she became unresponsive for less than one minute. She could hear 
what is being said to her during these times and did not lose 
tone or consciousness, and would then immediately be able to 
resume activity without confusion. Ms. ___ presented to the 
ED at ___ after one of these episodes resulted in a 
severe bioccipital and bifrontal headache and was transferred to 
___ for neurologic evaluation to rule out partial seizure as a 
potential etiology.

On admission, Ms. ___ exhibited no focal neurological 
deficits and had a normal cardiovascular exam. While 
hospitalized, Ms. ___ had several witnessed episodes; during 
the episodes Ms. ___ blood pressure would elevate to the 
180s/110s; her baseline blood pressure during the 
hospitalization also trended in the 140s/150s. An EKG taken 
during one episode was normal. Chest radiograph and 
transesophageal echocardiogram were also reassuring. The 
patient's blood pressure never rose high enough to require 
delivery of fast-acting anithypertensives. TSH was found to be 
mildly elevated (4.6) but free T4 was normal. Autoimmune workup 
including ___, CRP, and ESR were normal. Consultation with 
internal medicine confirmed that a pheochromocytoma was unlikely 
to be the cause of her symptoms and further testing was not 
performed for this. The patient's symptoms suggested a 
non-neurologic cause of her episodes; a continuous EEG captured 
multiple episodes and displayed no seizure activity at these 
times.

In discussion with Ms. ___, it was decided to trial 
propranolol to reduce her blood pressure and possibly prevent or 
reduce the symptoms associated with her episodes. She received 
an additional dose of 20mg PO and was transitioned to 40mg PO 
BID prior to discharge. Her symptoms were much improved prior to 
discharge. This can be up-titrated on an outpatient basis. 

Transitional Issues: 
#Hypertension: BP during admission fluctuated 
120s-180s/70s-110s, with the majority of her pressures between 
episodes being with SBP in the 140s-150s and spikes as high as 
180s/110s during/immediately after her episodes. She is being 
discharged on Propanolol 40mg PO BID and this can be uptitrated 
as appropriate during followup. 

#Headache: For continuing headache, she should continue to take 
Tylenol and/or Ibuprofen as needed. 

#Snoring: Incidental history of snoring was illicited on initial 
history. Consider workup for OSA as this can also be a cause for 
headache.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO ONCE:PRN Reflux 
2. Fexofenadine 60 mg PO BID 

 
Discharge Medications:
1.  Propranolol 40 mg PO BID 
RX *propranolol 40 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Fexofenadine 60 mg PO BID  
3.  Ranitidine 150 mg PO ONCE:PRN Reflux  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension
Paroxysmal hypertensive episodes
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the neurology service at ___ for 
evaluation of episodes of dizziness and foggy thinking that you 
have been experiencing. We did a number of tests including an 
MRI of your brain, which was normal. We also were able to 
capture an event on EEG, which was normal and showed you are not 
having seizures. We did, however find that your blood pressure 
was high and was particularly the highest during and after these 
episodes. It seems that perhaps this surge in blood pressure is 
worsening your headache as well. Therefore, we started you on a 
low dose of a medication, Propanolol, which can treat both high 
blood pressure and help prevent headaches.

You should follow up with your PCP ___ ___ weeks to check your 
blood pressure and discuss increase the dose of Propanolol as 
needed. If you continue to have headaches, you can also take 
Tylenol and Ibuprofen as needed to help control the pain.

It has been our pleasure to take care of your during your stay. 
We wish you all the best! 

___ Neurology Team
 
Followup Instructions:
___